US09193723B2
1-(4-hydroxypiperidin-1-yl)-3-methylbutan-1-one
The title compound was prepared as described in Example 52A, substituting 3-methylbutanoyl chloride for 2-cyclopentylacetyl chloride and piperidin-4-ol for methyl 4-aminobenzoate.

reactant | 2-cyclopentylacetyl chloride | C1(CCCC1)CC(=O)Cl | C7H11ClO
reactant | piperidin-4-ol | N1CCC(CC1)O | C5H11NO
reactant | methyl 4-aminobenzoate | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
product | 1-(4-hydroxypiperidin-1-yl)-3-methylbutan-1-one | OC1CCN(CC1)C(CC(C)C)=O | C10H19NO2
